US07223788B2
4-Butoxy-N-[4-(4-dimethylaminopiperidin-1-yl)phenyl]benzamide
([1-(4-Aminophenyl)piperidin-4-yl]dimethylamine) was reacted with 4-4-butoxybenzoic acid by method E. This resulted in the product with the molecular weight of 395.55 (C24H33N3O2); MS (ESI): 396 (M+H+).

reactant | [1-(4-Aminophenyl)piperidin-4-yl]dimethylamine | NC1=CC=C(C=C1)N1CCC(CC1)N(C)C | C13H21N3
reactant | 4-4-butoxybenzoic acid | CCCCOC1=CC=C(C(=O)O)C=C1 | C11H14O3
product | 4-Butoxy-N-[4-(4-dimethylaminopiperidin-1-yl)phenyl]benzamide | C(CCC)OC1=CC=C(C(=O)NC2=CC=C(C=C2)N2CCC(CC2)N(C)C)C=C1 | C24H33N3O2
